US08383637B2
N-[3-(3-Dimethoxymethyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide
A mixture of 3-(3-dimethoxymethyl-4-nitro-phenylsulfanyl)-phenylamine (0.0384 mol) and TEA (0.0576 mol) in THF (q.s.) was stirred at 5° C., and benzenesulfonyl chloride (0.0384 mol) was added dropwise at 5° C., then the reaction mixture was reacted at room temperature and purified by column chromatography over silica gel (eluent: CH2Cl2). The product fractions were collected and the solvent was evaporated to yield the title compound as a residue. (The product was used in subsequent steps without further purification.)

reactant | 3-(3-dimethoxymethyl-4-nitro-phenylsulfanyl)-phenylamine | 0.0384 mol | COC(C=1C=C(C=CC1[N+](=O)[O-])SC=1C=C(C=CC1)N)OC | C15H16N2O4S
reactant | benzenesulfonyl chloride | 0.0384 mol | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | N-[3-(3-Dimethoxymethyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide | COC(C=1C=C(C=CC1[N+](=O)[O-])SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)OC | C21H20N2O6S2
